US04406897
4-Chlorobenzoyl-isothiocyanate
A solution of 4-chlorobenzoyl chloride (127.1 ml) in 100 ml of dry toluene is added to a vigorously stirred suspension of dried KSCN (106.90 g) in about one liter of dried toluene. The reaction mixture is heated to reflux and after addition is completed the mixture is refluxed overnight. The reaction mixture is allowed to cool, KCl filtered and the filtrate evaporated leaving a reddish residue which solidifies on standing. The residue is vacuum distilled, using a steam filled condenser, yielding 152.4 g of a distillate, b.p. 88°-90° (0.350 torr).

reactant | 4-chlorobenzoyl chloride | 127.1 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | KSCN | 106.90 g | C(#N)[S-].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | about one liter | C1(=CC=CC=C1)C | C7H8
product | 4-Chlorobenzoyl-isothiocyanate | ClC1=CC=C(C(=O)N=C=S)C=C1 | C8H4ClNOS
